US07317126B2
Synthesis of the diphenylmethylthioacetamide
A reactor equipped with an impeller stirrer and a gas introduction tube was charged with methyldiphenylmethylthioacetate (100 g; 1 equivalent) and methanol (300 mL; 3 volumes) at room temperature. The mixture was heated to 35° C. Ammonia (7 equivalents) was introduced within 3 hours, and the mixture contacted at 35° C. for 16 hours before adding 3 equivalents of ammonia. When the reaction was completed, the mixture was cooled to 25° C. and water (90 ml; 0.9 volume) added. The mixture was filtered and dried under vacuum.

reactant | methyldiphenylmethylthioacetate | 100 g, 1 equivalent | COC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=S | C16H16OS
reactant | methanol | 300 mL | CO | CH4O
reactant | Ammonia | 7 equivalents | N | H3N
reactant | ammonia | 3 equivalents | N | H3N
solvent | water | 90 ml | O | H2O
product | diphenylmethylthioacetamide | C1(=CC=CC=C1)C(C1=CC=CC=C1)CC(=S)N | C15H15NS
